US07202364B2
4-Cyclohexylacetanilide (24 g, 110 mmol) is dissolved in a mixture of concentrated HCl (25 mL) and acetic acid (75 mL). The mixture is cooled in an ice bath and a solution of sodium chlorate (NaClO3, 7.5 g, 70 mmol) in water (30 mL) is added via a dropping funnel. The reaction is allowed to warm to room temperature and then poured into saturated sodium bisulfite solution (500 mL). The solid which forms is isolated by filtration and subsequently washed first with water (500 mL) and then a mixture of hexanes/Et2O (10:1, 500 mL). The resulting solid is air dried to yield 2-chloro-4-cyclohexylacetanilide (m.p. 110–112° C.).

reactant | 4-Cyclohexylacetanilide | 110 mmol, 24 g | C1CCC(CC1)CC(=O)NC1=CC=CC=C1 | C14H19NO
reactant | sodium chlorate | 70 mmol, 7.5 g | Cl(=O)(=O)[O-].[Na+]
reactant | sodium bisulfite | 500 mL | S([O-])(O)=O.[Na+]
solvent | HCl | 25 mL | Cl | ClH
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
solvent | water | 30 mL | O | H2O
solvent | water | 500 mL | O | H2O
product | 2-chloro-4-cyclohexylacetanilide | ClC1CCCC(C1)CC(=O)NC1=CC=CC=C1 | C14H18ClNO
